US09169259B2
(3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenyl)methanol (20 mg, 0.05 mmol) and MnO2 (86 mg, 1.0 mmol) were dissolved in dichloromethane (10 mL), the reaction mixture was heated up to 40° C. with stirring for 24 h, filtered, washed with dichloromethane (30 mL) and then the filtrate was concentrated in vacuo to give a solid which was purified by chromatography on a aluminum oxide eluted with dichloromethane to give 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzaldehyde (9 mg, 45%) as an orange solid. LC-MS: 399 [M+H]+, tR=1.88 min.

reactant | (3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenyl)methanol | 0.05 mmol, 20 mg | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C=CC1)CO)C=CN2 | C23H24N6O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | MnO2 | 1.0 mmol, 86 mg | O=[Mn]=O
product | 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzaldehyde | 9 mg, 45% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C=O)C=CC1)C=CN2 | C23H22N6O
